US05292767
trans-2-acetylthiomethyl-4-tert-butoxycarbonyltetrahydrothiophene (compound No. 4-1)
To a stirred solution of triphenylphosphine (391 mg) in THF (3 ml), azodicarboxylic acid diethylester (260 mg) dissolved in THF (1 ml) was added at -15°--10° C. under nitrogen atmosphere. To the mixture, trans-4-tert-butoxycarbonyl-2-hydroxymethyltetrahydrothiophene (compound No. 1-1, 150 mg) and thioacetic acid (114 mg) dissolved in THF (2 ml) were added at -20°--15° C., and the mixture was stirred for 1 hour at -20° C. and for 1 hour at room temperature. The mixture was concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 169 mg (82%) of the titled compound (compound No. 4-1).

reactant | triphenylphosphine | 391 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethylester | 260 mg | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | trans-4-tert-butoxycarbonyl-2-hydroxymethyltetrahydrothiophene | C(C)(C)(C)OC(=O)[C@H]1C[C@@H](SC1)CO | C10H18O3S
reactant | thioacetic acid | 114 mg | C(C)(=S)O | C2H4OS
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | trans-2-acetylthiomethyl-4-tert-butoxycarbonyltetrahydrothiophene | 169 mg, 82% | C(C)(=O)SC[C@@H]1SC[C@H](C1)C(=O)OC(C)(C)C | C12H20O3S2
